US07235572B2
a] 4,5-Dimethyl-2-(4-trifluoromethyl-phenyl)-thiazole hydrochloride;
A solution of 4-trifluoromethyl-thiobenzamide (4 g, 19.5 mmol) and 3-chloro-2-butanone (3.9 ml, 39 mmol) in isopropanol (20 ml) was heated to reflux for 30 h under an argon atmosphere. The reaction mixture was concentrated to a volume of 10 ml, cooled to 50° C. and diisopropylether (20 ml) was added dropwise. The solution was cooled to ambient temperature, the resulting crystals were filtered off, washed with ice cold diisopropylether and dried in vacuo to give 2.6 g (8.9 mmol, 45%) of the title compound as off-white crystals.

reactant | 4-trifluoromethyl-thiobenzamide | 19.5 mmol, 4 g | FC(C1=CC=C(C(=S)N)C=C1)(F)F | C8H6F3NS
reactant | 3-chloro-2-butanone | 39 mmol, 3.9 ml | ClC(C(C)=O)C | C4H7ClO
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4,5-Dimethyl-2-(4-trifluoromethyl-phenyl)-thiazole hydrochloride | 8.9 mmol, 2.6 g, 45% | Cl.CC=1N=C(SC1C)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C12H10F3NS.ClH/c1-7-8(2)17-11(16-7)9-3-5-10(6-4-9)12(13,14)15;/h3-6H,1-2H3;1H
